US07829560B2
3-Fluoro-N-[4-({2-[(2-methoxy-1-methylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-piperidin-1-ylbenzamide (Compound B392).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 2-methoxy-1-methylethylamine according to conditions described in general procedure C. Mp: 94-95° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.97 (s, 3 H), 1.56-1.61 (m, 6 H), 3.00-3.32 (m, 9 H), 4.10 (s, 1 H), 6.31 (s, 1 H), 6.95-7.03 (m, 2 H), 7.15 (d, J=9.1 Hz, 1 H), 7.38 (d, J=8.0 Hz, 1 H), 7.43 (s, 1 H), 7.50-7.62 (m, 3 H), 7.79-7.82 (m, 1 H), 7.95-7.97 (m, 1 H), 8.20 (s 1 H), 10.40 (s, 1H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 2-methoxy-1-methylethylamine | COCC(C)N | C4H11NO
product | 3-Fluoro-N-[4-({2-[(2-methoxy-1-methylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NC(COC)C)C=C(C1)N1CCCCC1 | C30H32FN5O3
